US07884109B2
3-(tert-Butyldimethylsilyloxy)-1-(2-chloropyridin-3-yl)propan-1-ol.
(Prepared similarly to literature procedure, Murtiashaw, C. W., et. al. J. Org. Chem., 1992, 57, 1930-1933). A solution of 3-(tert-butyldimethylsilyloxy)propanal (2.3 g, prepared from 3-(tert-butyldimethylsilyloxy)propan-1-ol via Swern oxidation as per Li, X.; Lantrip, D.; Fuchs, P. L. J. Am. Chem. Soc., 2003, 125, 14262-14263, Supporting information) in THF (10 mL) was slowly added via double ended needle to a solution of 2-chloro-3-lithiopyridine (prepared in turn from freshly prepared LDA (11.4 mM) and 2-chloropyridine (11.4 mM) (as per Gribble, G. W.; Saulnier, M. G. Tet. Lett. 1980, 21, 4137-4140) in THF (25 mL) at −78° C. The resulting mixture was allowed to slowly warm to RT over 15 hr, quenched via the addition of sat. NH4Cl (2 mL) and solvents reduced in vacuo. The resultant slurry was taken up in EtOAc, washed with brine, and purified via column chromatography (eluted with 15, 20 and 25% EtOAc/Hex) to yield the titled product (1.0 g), NMR CDCl3 1H δ 8.3 (dd, 1H), 8.0 (dd, 1H), 7.3 (dd, 1H), 5.2 (d, 1H), 4.5 (m, 1H), 4.0-3.8 (m, 2H), 2.1 (m, 1H), 1.8 (m, 1H) 0.9 (s, 9H), 0.1 (s, 6H); MH+=302/304.

reactant | 3-(tert-butyldimethylsilyloxy)propanal | 2.3 g | [Si](C)(C)(C(C)(C)C)OCCC=O | C9H20O2Si
reactant | 2-chloro-3-lithiopyridine | ClC1=NC=CC=C1[Li]
reactant | LDA | 11.4 mM | [Li+].CC(C)[N-]C(C)C
reactant | 2-chloropyridine | 11.4 mM | ClC1=NC=CC=C1 | C5H4ClN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(tert-Butyldimethylsilyloxy)-1-(2-chloropyridin-3-yl)propan-1-ol | 1.0 g | [Si](C)(C)(C(C)(C)C)OCCC(O)C=1C(=NC=CC1)Cl | C14H24ClNO2Si
